US06482824B1
A mixture of 0.75 ml of a 0.05M solution of 3,5-dimethyl-6-(4-methoxyphenyl)-3,6-dihydro-2H-1,2-oxazine in dichloromethane, 0.5 ml of a 0.05M solution of 4-methoxybenzoic acid in dimethylformamide, and 0.5 ml of a 0.075M solution of N-ethyl-N′-dimethylaminopropyl-carbodiimide hydrochloroide in acetonitrile was stirred at ambient temperature for 18 h. Methanol (1 ml) was added with stirring and the mixture applied to a methanol washed 500 mg Isolute SCX cartridge (Jones Chromatography). The absorbent was then washed with methanol (2.5 ml) and the combined run through and washing concentrated to dryness using a centrifugal evaporator. The residue was dissolved in ethyl acetate (0.5 ml) and applied to a 100 mg Isolute SI cartridge (Jones Chromatography). Elution with ethyl acetate (2 ml) followed by removal of the solvent by centrifugal evaporation gave 3,5-dimethyl-2-(4-methoxybenzoyl)-6-(4-methoxyphenyl)-3,6-dihydro-2H-1,2-oxazine.

reactant | 3,5-dimethyl-6-(4-methoxyphenyl)-3,6-dihydro-2H-1,2-oxazine | CC1NOC(C(=C1)C)C1=CC=C(C=C1)OC | C13H17NO2
reactant | 4-methoxybenzoic acid | COC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | N-ethyl-N′-dimethylaminopropyl-carbodiimide | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | Methanol | 1 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
product | 3,5-dimethyl-2-(4-methoxybenzoyl)-6-(4-methoxyphenyl)-3,6-dihydro-2H-1,2-oxazine | CC1N(OC(C(=C1)C)C1=CC=C(C=C1)OC)C(C1=CC=C(C=C1)OC)=O | C21H23NO4
